US05622825
Preparation of 3-(2',4'-Dinitrophenylamino) propionic acid (DNP-Ala)
To a solution of beta-alanine (1.0 g, 11.1 mmole) in 50 ml of 1M NaHCO3 was added 2,4-dinitrofluorobenzene (10.4 g, 56 mmole) in 100 ml of ethanol. The reaction mixture was stirred at room temperature for 2 hours and evaporated to remove the volatile in vacuo. The residue was transferred to a separatory funnel with water and washed twice with ethyl ether. The aqueous layer was acidified with 1N HCl until precipitation was complete. The mixture was filtered and the wet cake washed with ether. This purification process, starting from dissolving the solid in 1M NaHCO3, washing the ether, and precipitating with 1N HCl, was repeated in the same manner to give yellow solid (1.6 g, 77%). e(MeOH)=7900 (260 nm), 15900 (350 nm). NMR spectral analysis was consistent with the structure.

reactant | beta-alanine | 11.1 mmole, 1.0 g | NCCC(=O)O | C3H7NO2
reactant | 2,4-dinitrofluorobenzene | 56 mmole, 10.4 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
solvent | NaHCO3 | 1M, 50 ml | C(=O)(O)[O-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-(2',4'-Dinitrophenylamino) propionic acid | 1.6 g, 77% | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])NCCC(=O)O | C9H9N3O6
